US07074819B2
Step 3) Synthesis of (3RS,4RS)4-{3-[4-(3-t-butyldimethylsilyloxypropyl)phenoxy]-1-propyl}-7-methoxymethyloxy-3-(4-methoxymethyloxyphenyl)-3-methylchroman
The title compound was prepared from 4-{3-[4-(3-t-butyldimethylsilyloxypropyl)phenoxy]-1-propynyl}-7-methoxymethyloxy-3-(4-methoxymethyloxyphenyl)-3-methylchroman according to the same method for the synthesis of 4-[9-(t-butyldimethylsilyloxy)-1-nonyl]-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman described in International Patent Appln. No. PCT/KR97/00265.

reactant | 4-{3-[4-(3-t-butyldimethylsilyloxypropyl)phenoxy]-1-propynyl}-7-methoxymethyloxy-3-(4-methoxymethyloxyphenyl)-3-methylchroman | [Si](C)(C)(C(C)(C)C)OCCCC1=CC=C(OCC#CC2C(COC3=CC(=CC=C23)OCOC)(C)C2=CC=C(C=C2)OCOC)C=C1 | C38H50O7Si
reactant | 4-[9-(t-butyldimethylsilyloxy)-1-nonyl]-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman | [Si](C)(C)(C(C)(C)C)OCCCCCCCCCC1C(CSC2=CC(=CC=C12)OC)(C)C1=CC=C(C=C1)OC | C33H52O3SSi
product | (3RS,4RS)4-{3-[4-(3-t-butyldimethylsilyloxypropyl)phenoxy]-1-propyl}-7-methoxymethyloxy-3-(4-methoxymethyloxyphenyl)-3-methylchroman | [Si](C)(C)(C(C)(C)C)OCCCC1=CC=C(OCCCC2C(COC3=CC(=CC=C23)OCOC)(C)C2=CC=C(C=C2)OCOC)C=C1 | C38H54O7Si
